US07884124B2
To a solution of methyl 4H-furo[3,2-b]pyrrole-5-carboxylate (1.0 g, 6.06 mmol) in CH2Cl2 (10 ml) was added triethyl amine (1.85 g, 18.2 mmol) and DMAP (148 mg 1.22 mol). Then BOC2O (2.0 g, 9.1 mmol) was added. The resulting mixture was stirred overnight. After the reaction was complete as judged TLC analysis (10% EtOAc/hexane), the reaction mixture was washed with water and brine and dried over Na2SO4. After filtration, the filtrate was concentrated and the crude product was purified by silica gel chromatography (20% EtOAc in hexane) to give 4-tert-butoxycarbonyl-4H-furo[3,2-b]pyrrole-5-carboxylic acid methyl ester as a white solid (987 mg, 62%). 1H NMR (400 MHz, CDCl3) δ (ppm) 7.45 (d, J=1.47 Hz, 1H), 6.82 (s, 1H), 6.59 (s, 1H), 3.80 (s, 3H), 1.55 (s, 9H).

reactant | methyl 4H-furo[3,2-b]pyrrole-5-carboxylate | 6.06 mmol, 1.0 g | O1C=CC=2NC(=CC21)C(=O)OC | C8H7NO3
reactant | triethyl amine | 18.2 mmol, 1.85 g | C(C)N(CC)CC | C6H15N
reactant | BOC2O | 9.1 mmol, 2.0 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1.22 mol, 148 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-tert-butoxycarbonyl-4H-furo[3,2-b]pyrrole-5-carboxylic acid methyl ester | 987 mg, 62% | COC(=O)C1=CC2=C(N1C(=O)OC(C)(C)C)C=CO2 | C13H15NO5
